US05204473
1-alpha-Methylbenzyloxy-4-(n-dodecylamino)-2,2,6,6-tetramethylpiperidine
The title compound, a colorless oil, is prepared from 1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-one and dodecylamine according to the procedure given in Example 35.

reactant | 1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-one | CC(C1=CC=CC=C1)ON1C(CC(CC1(C)C)=O)(C)C | C17H25NO2
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
product | 1-alpha-Methylbenzyloxy-4-(n-dodecylamino)-2,2,6,6-tetramethylpiperidine | CC(C1=CC=CC=C1)ON1C(CC(CC1(C)C)NCCCCCCCCCCCC)(C)C | C29H52N2O
